US05856529
(trans)-3-(2,3-Dihydrobenzodioxin-5-yl)propenoic acid
A mixture of 2,3-dihydrobenzodioxin-5-carboxaldehyde (Morishima, et al., Eur. Pat. Appl. 309,766, 5 Apr. 89) (9.25 g, 56.4 mmol), malonic acid (11.73 g, 112.8 mmol), pyrrolidine (1 mL), and pyridine (25 mL) was heated to reflux for 2 hr, cooled, and then poured into ice water (300 mL). The white precipitate was filtered, washed with 1N HCl, and air dried (9.83 g, 84.6%).

reactant | 2,3-dihydrobenzodioxin-5-carboxaldehyde | 56.4 mmol, 9.25 g | O1CCOC2=C1C=CC=C2C=O | C9H8O3
reactant | malonic acid | 112.8 mmol, 11.73 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyrrolidine | 1 mL | N1CCCC1 | C4H9N
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | (trans)-3-(2,3-Dihydrobenzodioxin-5-yl)propenoic acid | O1CCOC2=C1C=CC=C2/C=C/C(=O)O | C11H10O4
